US09056881B2
Methyl bis(pentafluoroethyl)phosphinate, (C2F5)2P(O)OCH3, (3.15 g; 10.0 mmol) is slowly added dropwise to dry, cooled (0° C.) N-methylpyrrolidine (0.85 g; 10.0 mmol) (exothermic) in a 25 ml glass flask. A white suspension forms. The reaction mixture is diluted with 2 ml of n-hexane, warmed to room temperature and stirred for 30 min. The readily volatile constituents are removed in vacuo (10−3 mbar) at 35° C. N,N-Dimethylpyrrolidinium bis(pentafluoroethyl)phosphinate, [MMPL][(C2F5)2P(O)O], (2.72 g; 6.8 mmol) is isolated as white solid in a yield of 68% and a purity of 98%.

reactant | Methyl bis(pentafluoroethyl)phosphinate | FC(C(F)(F)F)(F)P(OC)(=O)C(C(F)(F)F)(F)F | C5H3F10O2P
reactant | (C2F5)2P(O)OCH3 | P(=O)(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)OC | C5H3F10O2P
reactant | N-methylpyrrolidine | 10.0 mmol, 0.85 g | CN1CCCC1 | C5H11N
solvent | n-hexane | 2 ml | CCCCCC | C6H14
product | N,N-Dimethylpyrrolidinium bis(pentafluoroethyl)phosphinate | yield of 68% | FC(C(F)(F)F)(F)P([O-])(=O)C(C(F)(F)F)(F)F.C[N+]1(CCCC1)C | InChI=1S/C6H14N.C4HF10O2P/c1-7(2)5-3-4-6-7;5-1(6,7)3(11,12)17(15,16)4(13,14)2(8,9)10/h3-6H2,1-2H3;(H,15,16)/q+1;/p-1
